US04321387
B. (S)-(-)-1-Methyl-2-chloromethylpyrrolidine HCl (VI)
To a solution of 5.99 g (0.052 mol) of (S)-(-)-1-methyl-2-hydroxymethylpyrrolidine in 30 ml of ethanol-free chloroform under nitrogen at 0° was added a solution of 4.75 ml (7.75 g, 0.065 mol) of thionyl chloride in 15 ml of ethanol-free chloroform over 10 min. The resultant clear, brown solution was stirred at room temperature for 30 min. and refluxed for 30 min. After cooling, the dark solution was evaporated to provide a tan-colored, solid residue. The residue was dissolved in absolute ethanol and excess ether was added resulting in the crystallization of a beige-colored solid. The solid was suction-filtered and dried under a nitrogen atmosphere affording 8.02 g (91%): mp 152°-154°; [α]D20 =-6°, c=2.35, methanol.

reactant | (S)-(-)-1-methyl-2-hydroxymethylpyrrolidine | 0.052 mol, 5.99 g | CN1[C@@H](CCC1)CO | C6H13NO
reactant | thionyl chloride | 0.065 mol, 4.75 ml, 7.75 g | S(=O)(Cl)Cl | Cl2OS
reactant | ether | CCOCC | C4H10O
reactant | methanol | CO | CH4O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (S)-(-)-1-Methyl-2-chloromethylpyrrolidine HCl | Cl.CN1[C@@H](CCC1)CCl | InChI=1S/C6H12ClN.ClH/c1-8-4-2-3-6(8)5-7;/h6H,2-5H2,1H3;1H/t6-;/m0./s1
